US06303742B1
20.25 g (0.1 mole) of 2,4-dinitrochlorobenzene, 124 g (2 moles) of ethylene glycol, 82.93 g (0.6 mole) of potassium carbonate, and 600 ml of xylene were placed in a reaction vessel to be stirred by heating for 12 hours. The reacted solution was isolated by filtration, and the filtrate was concentrated. 17.0 g of 2-(2,4-dinitrophenoxy) ethanol was yielded by column purification.

reactant | 2,4-dinitrochlorobenzene | 0.1 mole, 20.25 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | ethylene glycol | 2 moles, 124 g | C(CO)O | C2H6O2
reactant | potassium carbonate | 0.6 mole, 82.93 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2,4-dinitrophenoxy) ethanol | 17.0 g | [N+](=O)([O-])C1=C(OCCO)C=CC(=C1)[N+](=O)[O-] | C8H8N2O6
